US06455528B1
(2) Synthesis of 2-(4-Methylphenyl)-2-methylpropionic Acid
A solution of 2-(4-methylphenyl)-2-methylpropionitrile (53.61 g), sodium hydroxide (40.4 g), diethylene glycol (160.8 ml) and water (60.6 ml) was refluxed for 18 hr. The reaction mixture was poured into water (3000 ml) and conc. hydrochloric acid (90 ml) was added. The generated crystals were collected by filtration to give the title compound (60.0 g) as pale-brown crystals, m.p.=78-81° C.

reactant | 2-(4-methylphenyl)-2-methylpropionitrile | 53.61 g | CC1=CC=C(C=C1)C(C#N)(C)C | C11H13N
reactant | sodium hydroxide | 40.4 g | [OH-].[Na+]
reactant | diethylene glycol | 160.8 ml | C(COCCO)O | C4H10O3
reactant | hydrochloric acid | 90 ml | Cl | ClH
solvent | water | 3000 ml | O | H2O
solvent | water | 60.6 ml | O | H2O
product | 2-(4-Methylphenyl)-2-methylpropionic Acid | 60.0 g | CC1=CC=C(C=C1)C(C(=O)O)(C)C | C11H14O2
